US06403595B1
(S)-3-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-oxo-1,2,3,4-tetrahydropyrazine
To a solution of N-tert-butoxycarbonyl-O-benzyl-L-serine (1.48 g) and 2,2-dimethoxyethyl[4-(1H-imidazol-1-yl)benzyl]amine (1.31 g) in acetonitrile (50 ml) were added HOBt (842 mg) and WSC hydrochloride (1.05 g), under ice-cooling, and the mixture was stirred at room temperature for 2 hours. To the mixture was added N,N-dimethylaminopyridine (catalytic amount), and the mixture was stirred overnight. The reaction solution was concentrated, and to the residue were added ethyl acetate and water. The organic layer was separated, washed with saturated brine, dried and concentrated, and the residue was purified with silica gel column chromatography (ethyl acetate:methanol=20:1). To the obtained product were added p-toluene sulfonic acid (856 mg) and toluene (60 ml), and the mixture was refluxed for 30 minutes and cooled. To the reaction solution was added ethyl acetate, and the mixture was washed with saturated sodium bicarbonate solution and saturated brine, dried and concentrated. The residue was purified with silica gel column chromatography (ethyl acetate:methanol=20:1) to give amorphous of the title compound (1.14 g).

reactant | N-tert-butoxycarbonyl-O-benzyl-L-serine | 1.48 g | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | 2,2-dimethoxyethyl[4-(1H-imidazol-1-yl)benzyl]amine | 1.31 g | COC(CNCC1=CC=C(C=C1)N1C=NC=C1)OC | C14H19N3O2
reactant | HOBt | 842 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC hydrochloride | 1.05 g | CCN=C=NCCCN(C)C.Cl
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | (S)-3-benzyloxymethyl-4-(tert-butoxycarbonyl)-1-[4-(1H-imidazol-1-yl)benzyl]-2-oxo-1,2,3,4-tetrahydropyrazine | 1.14 g | C(C1=CC=CC=C1)OC[C@H]1C(N(C=CN1C(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C=NC=C1)=O | C27H30N4O4
